US05763489
A suspension of 2-(5-methoxy-1,2,3,4-tetrahydro-1-naphthyl)ethyl N,N-diphenylcarbamate (0.93 g) and DL-methionine (3.50 g) in methanesulfonic acid (15 ml) was stirred at room temperature for 16 hours, then poured into ice water. The resulting mixture was extracted with ethyl acetate. The extract was washed successively with 5% hydrochloric acid and brine, dried over sodium sulfate, and evaporated in vacuo to afford crude 2-(5-hydroxy-1,2,3,4-tetrahydro-1-naphthyl)ethyl N,N-diphenylcarbamate (0.77 g).

reactant | 2-(5-methoxy-1,2,3,4-tetrahydro-1-naphthyl)ethyl N,N-diphenylcarbamate | 0.93 g | C1(=CC=CC=C1)N(C(OCCC1CCCC2=C(C=CC=C12)OC)=O)C1=CC=CC=C1 | C26H27NO3
reactant | DL-methionine | 3.50 g | NC(CCSC)C(=O)O | C5H11NO2S
solvent | methanesulfonic acid | 15 ml | CS(=O)(=O)O | CH4O3S
product | 2-(5-hydroxy-1,2,3,4-tetrahydro-1-naphthyl)ethyl N,N-diphenylcarbamate | 0.77 g | C1(=CC=CC=C1)N(C(OCCC1CCCC2=C(C=CC=C12)O)=O)C1=CC=CC=C1 | C25H25NO3
